US04774253
A solution of 0.8 g (5.5 mmol) of methyl 2-hydroxy-2-ethylbutyrate in 2 ml of dimethoxyethane was added over a period of about 10 minutes to a stirred suspension of 0.24 g (6 mmol) of a 60% sodium hydride dispersion in mineral oil in 4 ml of dry dimethoxyethane. The solution was stirred at room temperature for 10 minutes and then a solution of 1.21 g (5 mmol) of 2-(4-chlorophenyl)-4-methyl-5-chloromethyloxazole in 5 ml of dry dimethoxyethane was added. A small crystal of sodium iodide was added and the mixture was stirred at room temperature overnight under an argon atmosphere. The mixture was heated at 65° C. for 1 hour, cooled and 2 ml of water were added. The majority of the solvent was removed by evaporation under reduced pressure and the residue was partitioned between 100 ml of diethyl ether and 100 ml of water. The organic phase was separated, washed with 50 ml of water and dried over magnesium sulphate. After filtration the filtrate was evaporated and the residue was combined with 25 ml of ethanol, 0.3 g (7.5 mmol) of sodium hydroxide and 10 ml of water. The solution was heated at reflux for 40 minutes, cooled and the majority of the solvent was removed under reduced pressure. The residue was dissolved in 100 ml of water and extracted twice with 100 ml of diethyl ether. The aqueous was acidified to pH 2 with concentration hydrochloric acid and extracted three times with 35 ml of dichloromethane each time. The combined dichloromethane extracts were dried over magnesium sulphate, filtered and evaporated to give a crude solid which was recrystallized twice from ethyl acetate/hexane. There was obtained 0.6 g (33%) of 2-[[2-(4-chlorophenyl)-4-methyl-5-oxazolyl]methoxy]-2-ethylbutyric acid of melting point 157° C.

reactant | methyl 2-hydroxy-2-ethylbutyrate | 5.5 mmol, 0.8 g | OC(C(=O)OC)(CC)CC | C7H14O3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-(4-chlorophenyl)-4-methyl-5-chloromethyloxazole | 5 mmol, 1.21 g | ClC1=CC=C(C=C1)C=1OC(=C(N1)C)CCl | C11H9Cl2NO
reactant | sodium iodide | [I-].[Na+]
reactant | sodium hydroxide | 7.5 mmol, 0.3 g | [OH-].[Na+]
solvent | dimethoxyethane | 2 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 4 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 5 ml | C(OC)COC | C4H10O2
solvent | water | 10 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | 2-[[2-(4-chlorophenyl)-4-methyl-5-oxazolyl]methoxy]-2-ethylbutyric acid | 0.6 g, 33% | ClC1=CC=C(C=C1)C=1OC(=C(N1)C)COC(C(=O)O)(CC)CC | C17H20ClNO4
